US04835153
Diisopropyl(2,5-diisopropyl-2,5-diaza-7,9-dithiabicyclo-[4,3,0]-nonane-8-ylidene)malonate.
To a suspension of 1.7 g of glyoxal sodium bisulfite in 12 ml of water was added N,N'-diisopropylethylenediamine dropwise at room temperature and the mixture was stirred until it became a homogeneous solution. To this solution was added dropwise at 0° C. the dithiolate solution which had been prepared previously by the reaction of 1.13 g of diisopropyl malonate with 0.55 g of carbon disulfide in the presence of 2.9 g of 30% aqueous potassium hydroxide. After the mixture was stirred for additional 30 minutes, 50 ml of water was added to the reaction solution. The solid deposited was collected by filtration and recrystalized from ethyl acetate-n-hexane to give 1.16 g of the desired product.

reactant | glyoxal sodium bisulfite | 1.7 g | S([O-])(O)=O.[Na+].C(=O)C=O
reactant | N,N'-diisopropylethylenediamine | C(C)(C)NCCNC(C)C | C8H20N2
reactant | dithiolate | S1SC(C=C1)C(=O)[O-]
reactant | diisopropyl malonate | 1.13 g | C(CC(=O)OC(C)C)(=O)OC(C)C | C9H16O4
reactant | potassium hydroxide | 2.9 g | [OH-].[K+]
solvent | water | 12 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | carbon disulfide | 0.55 g | C(=S)=S | CS2
product | Diisopropyl(2,5-diisopropyl-2,5-diaza-7,9-dithiabicyclo-[4,3,0]-nonane-8-ylidene)malonate | 1.16 g, Yield 45% | C(C)(C)OC(C(C(=O)OC(C)C)=C1SC2N(CCN(C2S1)C(C)C)C(C)C)=O | C20H34N2O4S2
